* source CMOS-OPAMP
M_M1         N01469 V_I+ N01822 N01822 PMOS_TRANSISTOR  
+ L=10e-6  
+ W=500e-6         
M_M2         N01473 0 N01822 N01822 PMOS_TRANSISTOR  
+ L=10e-6  
+ W=500e-6         
M_M4C         N01553 N00816 N00756 N00756 PMOS_TRANSISTOR  
+ L=5e-6  
+ W=5e-6         
M_M4         N00756 N00756 V_DD V_DD PMOS_TRANSISTOR  
+ L=5e-6  
+ W=5e-6         
M_M3         N00812 N00756 V_DD V_DD PMOS_TRANSISTOR  
+ L=5e-6  
+ W=5e-6         
M_M3C         N00816 N00816 N00812 N00812 PMOS_TRANSISTOR  
+ L=5e-6  
+ W=5e-6         
V_V_DD         V_DD 0 5Vdc
V_V_SS         0 V_SS 5Vdc
M_M2C         N01553 V_BIAS3 N01473 N01473 NMOS_TRANSISTOR  
+ L=5e-6  
+ W=400e-6         
M_M7         N01473 V_BIAS2 V_SS V_SS NMOS_TRANSISTOR  
+ L=30e-6  
+ W=10e-6         
M_M6         N01469 V_BIAS2 V_SS V_SS NMOS_TRANSISTOR  
+ L=30e-6  
+ W=10e-6         
M_M1C         N00816 V_BIAS3 N01469 N01469 NMOS_TRANSISTOR  
+ L=5e-6  
+ W=400e-6         
M_M5         N01822 V_BIAS1 V_DD V_DD PMOS_TRANSISTOR  
+ L=120e-6  
+ W=40e-6         
V_V_BIAS3         V_BIAS3 0 -0.1
V_V_BIAS2         V_BIAS2 0 -1.78
M_M8         V_BIAS1 V_BIAS1 V_DD V_DD PMOS_TRANSISTOR  
+ L=120e-6  
+ W=10e-6         
R_R1         0 V_BIAS1  1k TC=0,0 
V_V1         V_I+ 0 DC 0Vdc AC 0.01 
C_C_L         0 V_O  10p  TC=0,0 
M_M9         V_SS N01553 V_O V_O PMOS_TRANSISTOR  
+ L=5e-6  
+ W=5e-6         
M_M10         V_O V_BIAS1 V_DD V_DD PMOS_TRANSISTOR  
+ L=120e-6  
+ W=200e-6         
C_C_C         V_O N01553  1p  TC=0,0 
