* source CMOS-OPAMP
M_M1         N01469 V_I+ N01822 N01822 PMOS_TRANSISTOR  
+ L=10e-6  
+ W=500e-6         
M_M2         N01473 0 N01822 N01822 PMOS_TRANSISTOR  
+ L=10e-6  
+ W=500e-6         
M_M4C         V_O N00816 N00756 N00756 PMOS_TRANSISTOR  
+ L=20e-6  
+ W=5e-6         
M_M4         N00756 N00756 V_DD V_DD PMOS_TRANSISTOR  
+ L=5e-6  
+ W=8e-6         
M_M3         N00812 N00756 V_DD V_DD PMOS_TRANSISTOR  
+ L=5e-6  
+ W=8e-6         
M_M3C         N00816 N00816 N00812 N00812 PMOS_TRANSISTOR  
+ L=20e-6  
+ W=5e-6         
V_V_DD         V_DD 0 5Vdc
V_V_SS         0 V_SS 5Vdc
M_M2C         V_O 0 N01473 N01473 NMOS_TRANSISTOR  
+ L=10e-6  
+ W=50e-6         
M_M7         N01473 V_BIAS3 V_SS V_SS NMOS_TRANSISTOR  
+ L=30e-6  
+ W=19e-6         
M_M6         N01469 V_BIAS3 V_SS V_SS NMOS_TRANSISTOR  
+ L=30e-6  
+ W=19e-6         
M_M1C         N00816 0 N01469 N01469 NMOS_TRANSISTOR  
+ L=10e-6  
+ W=50e-6         
M_M5         N01822 V_BIAS1 V_DD V_DD PMOS_TRANSISTOR  
+ L=120e-6  
+ W=60e-6         
M_M8         V_BIAS1 V_BIAS1 V_DD V_DD PMOS_TRANSISTOR  
+ L=120e-6  
+ W=10e-6         
R_R1         0 V_BIAS1  1k TC=0,0 
V_V1         V_I+ 0 DC 0Vdc AC 0.01 
C_C_L         0 N21089  10p  TC=0,0 
C_C_C         V_O 0  10p  TC=0,0 
M_M9         V_DD N21089 N21089 N21089 NMOS_TRANSISTOR  
+ L=5e-6  
+ W=500e-6         
M_M10         N21089 V_BIAS1 V_SS V_SS NMOS_TRANSISTOR  
+ L=500e-6  
+ W=5e-6         
M_M11         V_DD V_DD 0 0 NMOS_TRANSISTOR  
+ L=500e-6  
+ W=5e-6         
M_M12         0 0 V_BIAS3 V_BIAS3 NMOS_TRANSISTOR  
+ L=45e-6  
+ W=5e-6         
M_M13         V_BIAS3 V_BIAS3 V_SS V_SS NMOS_TRANSISTOR  
+ L=115e-6  
+ W=5e-6         
C_C_C1         N00756 V_O  1p  TC=0,0 
